US05025025
A stream of nitrogen gas is passed through a mixture of 19.6 mL (41.2 mmol) of 2.1M vinyllithium in tetra-hydrofuran and 21 mL toluene to evaporate tetrahydrofuran. The resulting pale yellow suspension is diluted with 21 mL ether and cooled to -78°. To this solution is added 1.87 g (20.9 mmol) cuprous cyanide and the reaction mixture is then warmed to 0° for 2 minutes. The resulting gray suspension is cooled to -78° and 0.9 mL (10.4 mmol) of 5,6-dihydro-2H-pyran-2-one is added. The reaction mixture is stirred at -78° for 30 minutes and at -20° for 15 minutes. The reaction is quenched by the addition of saturated aqueous ammonium chloride and stirred for 1 hour at room temperature. The insoluble salts are filtered off and washed with water (1×20 mL) and ether (2×20 mL). The layers are separated and the aqueous phase is extracted with ether (2×30 mL). Combined organic extracts are dried (MgSO4), filtered and evaporated to give yellow oil which is purified by flash chromatography to obtain 4-ethenyltetrahydro-2H-pyran-2-one as a pale yellow oil.

reactant | vinyllithium | 41.2 mmol, 2.1M, 19.6 mL | C(=C)[Li]
reactant | 5,6-dihydro-2H-pyran-2-one | 10.4 mmol, 0.9 mL | O1C(C=CCC1)=O | C5H6O2
solvent | tetra-hydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 21 mL | C1(=CC=CC=C1)C | C7H8
product | 4-ethenyltetrahydro-2H-pyran-2-one | C(=C)C1CC(OCC1)=O | C7H10O2
